US04409228
A mixture of 0.088 mole of 4-acetamidopiperidine, 15 g of potassium carbonate, 0.088 mole of 2-chloro-6-methoxypyridine in 100 ml of dimethylsulfoxide is heated with stirring to 130° C. for 50 hours, then it is cooled, the mixture is poured into water and the suspension thus obtained is extracted with diethyl ether. The aqueous phase is extracted with methylene chloride, the organic phase is washed with water, it is dried on anhydrous sodium sulfate and evaporated to dryness. 4-acetamido-1-(6-methoxy-2-pyridyl)piperidine is thus obtained which, after crystallisation in 95% ethanol, melts at 125° to 127° C.

reactant | 4-acetamidopiperidine | 0.088 mole | C(C)(=O)NC1CCNCC1 | C7H14N2O
reactant | potassium carbonate | 15 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro-6-methoxypyridine | 0.088 mole | ClC1=NC(=CC=C1)OC | C6H6ClNO
reactant | water | O | H2O
solvent | dimethylsulfoxide | 100 ml | CS(=O)C | C2H6OS
product | 4-acetamido-1-(6-methoxy-2-pyridyl)piperidine | Yield: 43% | C(C)(=O)NC1CCN(CC1)C1=NC(=CC=C1)OC | C13H19N3O2
